US07094801B2
Ex-102A: To a solution of 2.7 g (20 mmol) of 4′-aminoacetophenone in 90 mL of ethanol, 4.5 g (20 mmol) of 3,4-dibutoxy-3-cyclobutene-1,2-dione (Aldrich) was added. The mixture was then heated to reflux overnight. A light yellow precipitate formed. To the reaction mixture, 20 mL (40 mmol) of ammonia (2.0 M in ethanol) was added, and the resultant mixture was stirred at room temperature for 2 hr. The light yellow solid was filtered and washed with ethanol to give 2.4 g (52%) of 3-(4-acetyl-phenylamino)-4-amino-cyclobut-3-ene-1,2-dione. 1H-NMR (DMSO-d6) δ 9.99 (br, 1H), 7.90 (d, J=8 Hz, 2H), 7.50 (d, J=8 Hz, 2H), 4.31 (br, 2H), 2.48 (s, 3H). HMRS (EI) calcd. for C12H10N2O3: 230.0691; found: 230.0691.

reactant | 4′-aminoacetophenone | 20 mmol, 2.7 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | 3,4-dibutoxy-3-cyclobutene-1,2-dione | 20 mmol, 4.5 g | C(CCC)OC=1C(C(C1OCCCC)=O)=O | C12H18O4
reactant | ammonia | 40 mmol, 2.0 M, 20 mL | N | H3N
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 3-(4-acetyl-phenylamino)-4-amino-cyclobut-3-ene-1,2-dione | 2.4 g, 52% | C(C)(=O)C1=CC=C(C=C1)NC=1C(C(C1N)=O)=O | C12H10N2O3
